US05045549
6-Fluoro-1-(2,4-difluorophenyl)1,4-dihydro4-oxo-7-(5-benyl-2,5-diazabicyclo(2.2.1)-hept-2-yl)-quinoline-3-carboxylic acid
Analogous to example 6 but utilizing 5.56 g (13.85 m Mol) of the mixed anhydride of 7-chloro-6-fluoro-1-(2,4-difluorophenyl)1,4-dihydro-4-oxoquinoline-3-carboxylic acid and difluoroboronic acid, 5.82 g (16.62 m Mol) 2-benzyl-2,5-diazabicyclo(2.2.1)heptane dihydrobromide and 11.58 ml (83 m Mol)triethylamine in 50 ml dry DMSO yielded 2.73 g (39%) of the product, mp 233° C.-238° C. dec.

reactant | 7-chloro-6-fluoro-1-(2,4-difluorophenyl)1,4-dihydro-4-oxoquinoline-3-carboxylic acid | ClC1=C(C=C2C(C(=CN(C2=C1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C16H7ClF3NO3
reactant | difluoroboronic acid | FOBOF | BF2HO2
reactant | 2-benzyl-2,5-diazabicyclo(2.2.1)heptane dihydrobromide | 5.82 g | Br.Br.C(C1=CC=CC=C1)N1C2CNC(C1)C2
reactant | triethylamine | 11.58 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 6-Fluoro-1-(2,4-difluorophenyl)1,4-dihydro4-oxo-7-(5-benyl-2,5-diazabicyclo(2.2.1)-hept-2-yl)-quinoline-3-carboxylic acid | 2.73 g, 39% | FC=1C=C2C(C(=CN(C2=CC1N1C2CN(C(C1)C2)CC2=CC=CC=C2)C2=C(C=C(C=C2)F)F)C(=O)O)=O | C28H22F3N3O3
